US04515791
2,7-Dimethyl-6-(m-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one
A suspension of 3.0 g. of 7-methyl-6-(m-nitropheyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one in 30 ml. of dry dimethylformamide is stirred for 10 minutes. A 0.54 g. portion of a 50% oil suspension of sodium hydride is added and the mixture is stirred for 1/2 hour with cooling. A 0.75 ml. portion of methyl iodide is added, the mixture is stirred for one hour and then filtered. The solid is washed with water and dried, giving 2.12 g. of the desired product as a yellow solid, m.p. 250°-253° C.

reactant | 7-methyl-6-(m-nitropheyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | CC1=CC=2N(N=C1C1=CC(=CC=C1)[N+](=O)[O-])C(NN2)=O | C12H9N5O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,7-Dimethyl-6-(m-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | CN1N=C2N(N=C(C(=C2)C)C2=CC(=CC=C2)[N+](=O)[O-])C1=O | C13H11N5O3
